US07429660B2
(5-Bromo-9H-thioxanthen-2-yl)-carbamic acid tert-butyl ester (1 g, 2.55 mmol), bis(pinacolato)diboron (0.78 g, 3.06 mmol) and potassium acetate (0.75 g, 7.65 mmol) in dry 1,4-dioxane (6 ml). To the yellow suspension was then added PdCl2(dppf) (0.10 g, 0.13 mmol) and dppf (7 mg, 0.13 mmol). The dark red mixture was heated to 110° C. under a N2 atmosphere for 24 hours. The crude mixture was purified by flash chromatography (silica, dichloromethane) to give [5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-thioxanthen-2-yl]-carbamic acid tert-butyl ester as a viscous brown oil which was used without any further purification (1.12 g).

reactant | (5-Bromo-9H-thioxanthen-2-yl)-carbamic acid tert-butyl ester | 2.55 mmol, 1 g | C(C)(C)(C)OC(NC1=CC=2CC3=CC=CC(=C3SC2C=C1)Br)=O | C18H18BrNO2S
reactant | bis(pinacolato)diboron | 3.06 mmol, 0.78 g | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 7.65 mmol, 0.75 g | C(C)(=O)[O-].[K+]
solvent | 1,4-dioxane | 6 ml | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.13 mmol, 0.10 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.13 mmol, 7 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | [5-(4,4,5,5-Tetramethyl-[1,3,2]dioxaborolan-2-yl)-9H-thioxanthen-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=CC=2CC3=CC=CC(=C3SC2C=C1)B1OC(C(O1)(C)C)(C)C)=O | C24H30BNO4S
